2172-08-07 09:50:00 Physician Attending Progress Note
Chief Complaint: GI Bleed, Respiratory Failure, Acute renal failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   about 100cc of urine since midnight
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2172-8-6**] 09:30 AM
 ULTRASOUND - At [**2172-8-6**] 11:00 AM
   Allergies:
   Thiazides
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2172-8-6**] 05:00 PM
   Ciprofloxacin - [**2172-8-6**] 08:30 PM
   Piperacillin/Tazobactam (Zosyn) - [**2172-8-7**] 04:01 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl (Concentrate) - 50 mcg/hour
   Dopamine - 4.5 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2172-8-7**] 08:00 AM
   Other medications:
   per ICU team
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: OG / NG tube
   Cardiovascular: No(t) Tachycardia
   Nutritional Support: NPO
   Respiratory: mechanical ventilation
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2172-8-7**] 09:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.6
C (99.6
   HR: 74 (65 - 87) bpm
   BP: 112/57(70) {58/20(28) - 132/82(98)} mmHg
   RR: 21 (7 - 27) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 93 kg (admission): 80 kg
             Total In:
                                                                  1,315 mL
                                                                    354 mL
   PO:
             TF:
   IVF:
                                                                  1,275 mL
                                                                    354 mL
   Blood products:
   Total out:
                                                                    340 mL
                                                                    106 mL
   Urine:
                                                                    340 mL
                                                                    106 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    975 mL
                                                                    248 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 22 cmH2O
   Plateau: 20 cmH2O
   Compliance: 28.6 cmH2O/mL
   SpO2: 99%
   ABG: 7.35/31/233/16/-7
   Ve: 8.6 L/min
   PaO2 / FiO2: 582
   Physical Examination
   General Appearance: No acute distress, intubated
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anteriorly)
   Extremities: Right lower extremity edema: 3+, Left lower extremity
   edema: 3+
   Skin:  Warm, Diffuse skin breaks
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.7 g/dL
   179 K/uL
   67 mg/dL
   3.0 mg/dL
   16 mEq/L
   3.8 mEq/L
   116 mg/dL
   107 mEq/L
   139 mEq/L
   29.5 %
   15.4 K/uL
        [image002.jpg]
                             [**2172-8-5**]  03:30 PM
                             [**2172-8-5**]  05:23 PM
                             [**2172-8-5**]  07:57 PM
                             [**2172-8-6**]  02:03 AM
                             [**2172-8-6**]  06:01 AM
                             [**2172-8-6**]  07:31 AM
                             [**2172-8-6**]  03:10 PM
                             [**2172-8-6**]  05:43 PM
                             [**2172-8-7**]  12:25 AM
                             [**2172-8-7**]  03:07 AM
   WBC
   15.7
   17.5
   15.4
   Hct
   33.4
   32.3
   32.3
   34.5
   30.1
   29.5
   Plt
   221
   211
   183
   179
   Cr
   2.7
   2.9
   2.9
   3.0
   TropT
   0.38
   0.39
   TCO2
   19
   18
   18
   18
   Glucose
   83
   70
   74
   66
   83
   67
   Other labs: PT / PTT / INR:17.5/34.6/1.6, CK / CKMB /
   Troponin-T:164/15/0.39, ALT / AST:44/40, Alk Phos / T Bili:117/1.5,
   Differential-Neuts:91.6 %, Lymph:4.2 %, Mono:3.5 %, Eos:0.3 %, Lactic
   Acid:1.3 mmol/L, Albumin:2.6 g/dL, LDH:214 IU/L, Ca++:8.5 mg/dL,
   Mg++:1.9 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
   88 y/o F with PMHx of CAD, DM, Atrial Fib, Alzheimers, CVA in [**5-12**]
   presented with GI Bleed in setting of suprtherapeutic INR.  Also with
   hypoxemic respiratory failure and acute renal failure
   # Respiratory Failure: Oxygenating well.  Will try to lighten sedation
   and switch to PSV.
   # Hypotension: TTE with EF > 55%, dilated RV.  Dopamine down to
   4.5mcg/kg/min
   # GI bleed/elevated INR: INR stable.
   # CAD/Elevated Troponin: troponin stable
   # Acute Renal Failure: Suspect ATN.  Has been making some urine.  Not
   getting more acidemic at moment.
   # Loculated pleural effusion: Will hold off on tapping for the moment
   as she is doing well with respect to respiratory failure
   Remainder of issues per ICU team
   ICU Care
   Nutrition:
   Comments: Will try to initiate tube feeds
   Glycemic Control:
   Lines:
   Multi Lumen - [**2172-8-5**] 10:00 AM
   PICC Line - [**2172-8-5**] 10:00 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2172-08-12 10:07:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Remains on vasopressin 1 unit/hour
   24 Hour Events:
   Allergies:
   Thiazides
   Unknown;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2172-8-9**] 08:30 PM
   Metronidazole - [**2172-8-10**] 12:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2172-8-12**] 08:19 AM
   Infusions:
   Vasopressin - 1 units/hour
   Other ICU medications:
   Fentanyl - [**2172-8-12**] 02:00 AM
   Pantoprazole (Protonix) - [**2172-8-12**] 08:19 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Respiratory: mechanical ventilation
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2172-8-12**] 10:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.4
C (97.5
   HR: 75 (63 - 79) bpm
   BP: 113/50(64) {113/50(64) - 114/53(69)} mmHg
   RR: 19 (13 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 86.9 kg (admission): 80 kg
   Height: 66 Inch
             Total In:
                                                                  1,741 mL
                                                                    646 mL
   PO:
             TF:
                                                                    869 mL
                                                                    363 mL
   IVF:
                                                                    722 mL
                                                                    233 mL
   Blood products:
   Total out:
                                                                    297 mL
                                                                    120 mL
   Urine:
                                                                    297 mL
                                                                    120 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,444 mL
                                                                    526 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 336 (335 - 372) mL
   PS : 16 cmH2O
   RR (Spontaneous): 27
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 145
   PIP: 17 cmH2O
   SpO2: 100%
   ABG: 7.33/36/154/20/-6
   Ve: 7.9 L/min
   PaO2 / FiO2: 385
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: scattered)
   Extremities: Right lower extremity edema: 3+, Left lower extremity
   edema: 3+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.3 g/dL
   112 K/uL
   135 mg/dL
   4.0 mg/dL
   20 mEq/L
   3.6 mEq/L
   127 mg/dL
   112 mEq/L
   144 mEq/L
   22.0 %
   16.7 K/uL
        [image002.jpg]
                             [**2172-8-9**]  04:16 PM
                             [**2172-8-10**]  12:08 AM
                             [**2172-8-10**]  04:09 AM
                             [**2172-8-10**]  04:11 AM
                             [**2172-8-10**]  05:45 AM
                             [**2172-8-10**]  03:05 PM
                             [**2172-8-11**]  05:01 AM
                             [**2172-8-11**]  03:17 PM
                             [**2172-8-11**]  10:26 PM
                             [**2172-8-12**]  05:44 AM
   WBC
   18.5
   17.8
   16.7
   Hct
   24.8
   24.3
   23.2
   22.0
   Plt
   103
   104
   112
   Cr
   3.6
   3.7
   4.0
   TCO2
   20
   19
   19
   21
   20
   20
   Glucose
   152
   162
   135
   Other labs: PT / PTT / INR:16.5/32.4/1.5, CK / CKMB /
   Troponin-T:47/5/0.38, ALT / AST:65/23, Alk Phos / T Bili:116/0.5,
   Differential-Neuts:92.6 %, Lymph:4.7 %, Mono:2.5 %, Eos:0.1 %,
   Fibrinogen:401 mg/dL, Lactic Acid:1.9 mmol/L, Albumin:2.6 g/dL, LDH:178
   IU/L, Ca++:8.2 mg/dL, Mg++:2.1 mg/dL, PO4:4.5 mg/dL
   Assessment and Plan
   88 y/o F with PMHx of CAD, DM, Atrial Fib, Alzheimers, CVA in [**5-12**] on
   coumadin who was found unresponsive and bradycardic, INR of 10 and
   active upper/lower GI bleed, now with unresolving acute renal failure
   and respiratory failure
    # Respiratory Failure: Not tolerating decreas in PSV.  RSBI in 140s.
   MRSA in sputum.  Cont vanc/zosyn
   # Hypotension: On small dose of vasopressin
   # Oliguric Acute Renal Failure/Anasarca: BUN/Cr continues to rise.
   Will try to diurese for now.  Renal following - decision to start CVVH
   will be tied in to overall goals of care
   # GI bleed/Blood Loss anemia: Stable
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2172-8-12**] 07:08 AM 35 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2172-8-5**] 10:00 AM
   Arterial Line - [**2172-8-8**] 09:53 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Family meeting held  Comments: Will continue to meet
   regularly with the family
   Code status: Full code
   Disposition :ICU
   Total time spent: 33 minutes
   Patient is critically ill

2172-08-13 11:47:00 Physician Attending Progress Note
Chief Complaint: GI Bleed, Respiratory Failure, Renal Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Only slight response in urine output to lasix 80mg and 120mg
   Remains on vasopressin
   1
   24 Hour Events:
 PICC LINE - START [**2172-8-12**] 08:24 PM
 MULTI LUMEN - STOP [**2172-8-12**] 11:36 PM
   Allergies:
   Thiazides
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2172-8-13**] 08:25 AM
   Infusions:
   Vasopressin - 1.2 units/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2172-8-12**] 08:21 PM
   Pantoprazole (Protonix) - [**2172-8-13**] 08:24 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: OG / NG tube
   Cardiovascular: No(t) Tachycardia
   Respiratory: mechanical ventilation
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2172-8-13**] 11:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.1
   Tcurrent: 36
C (96.8
   HR: 69 (65 - 86) bpm
   BP: 115/46(71) {100/41(62) - 135/58(91)} mmHg
   RR: 27 (8 - 150) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 92 kg (admission): 80 kg
   Height: 66 Inch
           Total In:
                                                                  1,331 mL
                                                                    457 mL
   PO:
           TF:
                                                                    613 mL
   IVF:
                                                                    418 mL
                                                                    259 mL
   Blood products:
                                                                    200 mL
                                                                    198 mL
   Total out:
                                                                    400 mL
                                                                    340 mL
   Urine:
                                                                    400 mL
                                                                    340 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    931 mL
                                                                    117 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 481 (323 - 481) mL
   PS : 14 cmH2O
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 96
   PIP: 21 cmH2O
   SpO2: 100%
   ABG: ///19/
   Ve: 7.8 L/min
   Physical Examination
   General Appearance: No acute distress, intubated, sedated
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: scattered)
   Abdominal: Soft, Non-tender, Distended
   Extremities: Right lower extremity edema: 3+, Left lower extremity
   edema: 3+
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   6.7 g/dL
   105 K/uL
   93 mg/dL
   4.0 mg/dL
   19 mEq/L
   4.0 mEq/L
   123 mg/dL
   112 mEq/L
   146 mEq/L
   20.8 %
   16.7 K/uL
        [image002.jpg]
                             [**2172-8-10**]  04:09 AM
                             [**2172-8-10**]  04:11 AM
                             [**2172-8-10**]  05:45 AM
                             [**2172-8-10**]  03:05 PM
                             [**2172-8-11**]  05:01 AM
                             [**2172-8-11**]  03:17 PM
                             [**2172-8-11**]  10:26 PM
                             [**2172-8-12**]  05:44 AM
                             [**2172-8-12**]  02:58 PM
                             [**2172-8-13**]  06:04 AM
   WBC
   18.5
   17.8
   16.7
   16.7
   Hct
   24.8
   24.3
   23.2
   22.0
   21.5
   20.8
   Plt
   103
   104
   112
   105
   Cr
   3.6
   3.7
   4.0
   4.0
   4.0
   TCO2
   19
   21
   20
   20
   Glucose
   152
   162
   135
   141
   93
   Other labs: PT / PTT / INR:15.8/35.4/1.4, CK / CKMB /
   Troponin-T:47/5/0.38, ALT / AST:65/23, Alk Phos / T Bili:116/0.5,
   Differential-Neuts:92.6 %, Lymph:4.7 %, Mono:2.5 %, Eos:0.1 %,
   Fibrinogen:401 mg/dL, Lactic Acid:1.9 mmol/L, Albumin:2.6 g/dL, LDH:178
   IU/L, Ca++:8.8 mg/dL, Mg++:2.1 mg/dL, PO4:4.9 mg/dL
   Assessment and Plan
   88 y/o F with PMHx of CAD, DM, Atrial Fib, Alzheimers, CVA in [**5-12**] on
   coumadin who was found unresponsive and bradycardic, INR of 10 and
   active upper/lower GI bleed, now with unresolving acute renal failure
   and respiratory failure
    # Respiratory Failure: RSBI in 90s today, tolerating PSV.  Will try an
   SBT today to see where we are.  Cont vanc dosing by level plus Zosyn
   # Hypotension: wean vasopressin
   # Oliguric Acute Renal Failure/Anasarca: U/O slightly better
   # GI bleed/Blood Loss anemia: s/p 1unit - may be some blood loss from
   PICC placement yesterday
   Remainder of issues per ICU team
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2172-8-8**] 09:53 PM
   PICC Line - [**2172-8-12**] 08:24 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2172-08-14 08:57:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure, Acute Renal Failure, GI Bleed
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Unable to wean off vasopressin
   24 Hour Events:
   684 cc of urine yesterday
   History obtained from Medical records, icu team
   Patient unable to provide history: Sedated
   Allergies:
   Thiazides
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2172-8-14**] 08:00 AM
   Vancomycin - [**2172-8-14**] 08:00 AM
   Infusions:
   Vasopressin - 1.2 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2172-8-14**] 08:00 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: PEG
   Nutritional Support: Tube feeds
   Respiratory: mechanical ventilation
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2172-8-14**] 08:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.4
C (97.5
   HR: 83 (68 - 88) bpm
   BP: 123/54(80) {77/34(52) - 146/99(109)} mmHg
   RR: 30 (16 - 31) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 87.7 kg (admission): 80 kg
   Height: 66 Inch
             Total In:
                                                                  1,110 mL
                                                                    778 mL
   PO:
             TF:
                                                                    351 mL
                                                                    303 mL
   IVF:
                                                                    358 mL
                                                                    426 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                    684 mL
                                                                    118 mL
   Urine:
                                                                    684 mL
                                                                    118 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    426 mL
                                                                    660 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 347 (295 - 352) mL
   PS : 12 cmH2O
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 111
   PIP: 18 cmH2O
   SpO2: 100%
   ABG: 7.36/32/152/18/-6
   Ve: 7.4 L/min
   PaO2 / FiO2: 380
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: 3+, Left lower extremity
   edema: 3+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.1 g/dL
   121 K/uL
   147 mg/dL
   4.2 mg/dL
   18 mEq/L
   4.1 mEq/L
   128 mg/dL
   113 mEq/L
   147 mEq/L
   24.8 %
   19.4 K/uL
        [image002.jpg]
                             [**2172-8-11**]  05:01 AM
                             [**2172-8-11**]  03:17 PM
                             [**2172-8-11**]  10:26 PM
                             [**2172-8-12**]  05:44 AM
                             [**2172-8-12**]  02:58 PM
                             [**2172-8-13**]  06:04 AM
                             [**2172-8-13**]  05:47 PM
                             [**2172-8-13**]  08:28 PM
                             [**2172-8-14**]  04:25 AM
                             [**2172-8-14**]  04:30 AM
   WBC
   17.8
   16.7
   16.7
   19.4
   Hct
   23.2
   22.0
   21.5
   20.8
   25.4
   24.8
   Plt
   104
   112
   105
   121
   Cr
   3.7
   4.0
   4.0
   4.0
   4.2
   TCO2
   20
   20
   16
   19
   Glucose
   162
   135
   141
   93
   147
   Other labs: PT / PTT / INR:15.8/35.4/1.4, CK / CKMB /
   Troponin-T:47/5/0.38, ALT / AST:65/23, Alk Phos / T Bili:116/0.5,
   Differential-Neuts:92.6 %, Lymph:4.7 %, Mono:2.5 %, Eos:0.1 %,
   Fibrinogen:401 mg/dL, Lactic Acid:1.9 mmol/L, Albumin:2.6 g/dL, LDH:178
   IU/L, Ca++:8.9 mg/dL, Mg++:2.1 mg/dL, PO4:5.2 mg/dL
   Assessment and Plan
   88 y/o F with PMHx of CAD, DM, Atrial Fib, Alzheimers, CVA in [**5-12**] on
   coumadin who was found unresponsive and bradycardic, INR of 10 and
   active upper/lower GI bleed, now with unresolving acute renal failure
   and respiratory failure
   # Respiratory Failure: Not optimistic that extubation is possible given
   volume overload.  Cont vanc dosing by level plus Zosyn - now day 7 -
   will treat for 14 day course
   # Hypotension: unable to wean vasopresssin.  will reculture given
   increased white count
   # Oliguric Acute Renal Failure/Anasarca: Renal function not improving
   dramatically overall
   # GI bleed/Blood Loss anemia:Hct stable
   Remainder of issues per ICU team
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2172-8-14**] 06:00 AM 35 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2172-8-8**] 09:53 PM
   PICC Line - [**2172-8-12**] 08:24 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 34 minutes
   Patient is critically ill